US07838483B2
Octanonitrile (1 g, 7.99 mmol) and hydroxylamine (50% in water, 0.74 cm3, 0.79 a 12 mmol, 1.5 eq) in EtOH (1 cm3) were stirred at room temperature for 7 days. Water (10 cm3) was then added. This caused crystals to precipitate, these were collected by filtration and dried in high vacuum line to give the product N′-hydroxyoctanimidamide (0.94 g, 74.6%) as a white solid, mp 73-75° C.

reactant | Octanonitrile | 7.99 mmol, 1 g | C(CCCCCCC)#N | C8H15N
reactant | hydroxylamine | NO | H3NO
solvent | water | O | H2O
solvent | EtOH | 1 cm3 | CCO | C2H6O
solvent | Water | 10 cm3 | O | H2O
product | N′-hydroxyoctanimidamide | 0.94 g, 74.6% | ON=C(CCCCCCC)N | C8H18N2O
